US04831265
In 50 ml of petroleum ether was dissolved 10.5 g of 11-acetoxyundecanoylchloride. To the solution was added 20 ml of ice-water. To the mixture was further added, while stirring, 4 g of sodium peroxide little by little. The organic layer was separated, and the aqueous layer was subjected to extraction with ether. The organic layer and the ether extracts were combined, washed with water and dried, followed by evaporation of the solvent to yield 8.6 g of white wax-like bis(11-acetoxyundecanoyl)peroxide.

reactant | 11-acetoxyundecanoylchloride | 10.5 g | C(C)(=O)OCCCCCCCCCCC(=O)Cl | C13H23ClO3
reactant | sodium peroxide | 4 g | [O-][O-].[Na+].[Na+]
product | bis(11-acetoxyundecanoyl)peroxide | C(C)(=O)OCCCCCCCCCCC(=O)OOC(CCCCCCCCCCOC(C)=O)=O | C26H46O8
